US04792547
6-(1-Piperidinyl)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide
To a suspension fo 1.28 g of 6-(1-piperidinyl) pyrazine-2-carboxylic acid in 18 ml of tetrahydrofuran, 0.95 ml of triethylamine and 0.84 ml of pivaloyl chloride were added dropwise successively at 0 ° C. under stirring. After stirring for 1 hour at 0 ° C., 0.58 g of 5-amino-1H-tetrazole was added to the mixture, and the reaction mixture was stirred for 30 minutes at room temperature, and then refluxed for 12 hours. The reaction mixture was evaporated, and water was added to the residue. The precipitate was collected by filtration, and recrystalized from a mixture of dimethylsulfoxide and methanol affording 0.55 g of the desired compound as yellow columns. The obtained crystal was consistent with that of (a).

reactant | 6-(1-piperidinyl) pyrazine-2-carboxylic acid | 1.28 g | N1(CCCCC1)C1=CN=CC(=N1)C(=O)O | C10H13N3O2
reactant | 5-amino-1H-tetrazole | 0.58 g | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.95 ml | C(C)N(CC)CC | C6H15N
solvent | pivaloyl chloride | 0.84 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 6-(1-Piperidinyl)-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | N1(CCCCC1)C1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C11H14N8O
